US09302991B2
Step-2>:methyl 6-(2,2-difluoroethoxy)-5-isopropylnicotinate
Palladium 10% on carbon (50 mg) is added to a solution of methyl 6-(2,2-difluoroethoxy)-5-(prop-1-en-2-yl)nicotinate (491 mg, 1.91 mmol, Step-1) in methanol (20 mL) and stirred at room temperature under hydrogen atomosphare (1 atm) for 2 hours. The reaction mixture is filtrated through a pad of Celite and filtrate is concentrated in vacuo to give 490 mg (99% yield) of the title compound as colorless oil. This material is used for the next reaction (Step-3) without further purification.

reactant | methyl 6-(2,2-difluoroethoxy)-5-(prop-1-en-2-yl)nicotinate | 1.91 mmol, 491 mg | FC(COC1=NC=C(C(=O)OC)C=C1C(=C)C)F | C12H13F2NO3
solvent | methanol | 20 mL | CO | CH4O
catalyst | Palladium | [Pd] | Pd
product | methyl 6-(2,2-difluoroethoxy)-5-isopropylnicotinate | 490 mg, 99% yield | FC(COC1=NC=C(C(=O)OC)C=C1C(C)C)F | C12H15F2NO3
